* Z:\home\evans\Downloads\preamp.asc
V1 N004 0 9v
R1 N002 N001 33k
R2 N001 P001 10k
C1 P001 0 47nf
C2 N005 P002 470nf
V2 P002 0 SINE(0 250m 500)
R3 N005 N006 1Meg
C3 N006 0 47µF
R4 N006 0 10k
R5 N003 N006 47K
V3 N003 0 9V
D1 0 N002 1N914
XU1 N005 N001 N004 0 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D2 0 N002 1N750
.model D D
.lib C:\users\evans\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 20mm 0
.lib UniversalOpAmp2.lib
.backanno
.end
